US06720320B2
8-methoxy-N,N-dimethyl-2H-chromene-3-carboxamide
By the reactions in the same manner as in Starting Material Synthesis Example 4 using 8-methoxy-2H-chromene-3-carboxylic acid (8.0 g), triethylamine (14.0 ml) and diethyl cyanophosphate (8.2 ml), the title compound (3.2 g) was obtained as a brown oil.

reactant | 8-methoxy-2H-chromene-3-carboxylic acid | 8.0 g | COC=1C=CC=C2C=C(COC12)C(=O)O | C11H10O4
reactant | diethyl cyanophosphate | 8.2 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 14.0 ml | C(C)N(CC)CC | C6H15N
product | 8-methoxy-N,N-dimethyl-2H-chromene-3-carboxamide | 3.2 g | COC=1C=CC=C2C=C(COC12)C(=O)N(C)C | C13H15NO3
